US05985990
Functionalization of Callaway 4608 Polymer Solution with Glycidyl Methacrylate
After sitting overnight a 50 g portion of each of the 15,000 and 10,000 mw functionalized materials were formulated with 49 g of glycerin and 1 g of 2-hydroxy-2-methyl-1-phenyl-propan-1-one, a photoinitiator available from Ciba-Giegy Corporation, Hawthorne, N.Y. under the tradename Darocur® 1173.

reactant | 2-hydroxy-2-methyl-1-phenyl-propan-1-one | 1 g | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | glycerin | 49 g | OCC(O)CO | C3H8O3
product | Glycidyl Methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
